US09035059B2
Sodium hydride (99 mg, 4.14 mmol) was added to a solution of 3-phenyl-1-propanol (564 μL, 4.14 mmol) in N,N-dimethylformamide (15 mL) while cooling in ice, and the mixture was stirred for 30 min while cooling in ice. A solution of 2-fluoro-5-nitropyridine (500 mg, 3.45 mmol) in N,N-dimethylformamide (5 mL) was added thereto. The mixture was warmed to room temperature and stirred for 19 hr. Subsequently, sodium hydride (99 mg, 4.14 mmol) was added thereto and the mixture was stirred at room temperature for 2 hr. Thereafter, the mixture was heated to 85° C., stirred for 1.5 hr, and further stirred at room temperature for 2 hr. Water was added to the reaction mixture while cooling in ice, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid and dried over anhydrous magnesium sulfate. The desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1) to afford 5-nitro-2-(3-phenylpropoxy)pyridine as a brown solid (440 mg).

reactant | Sodium hydride | 4.14 mmol, 99 mg | [H-].[Na+]
reactant | 3-phenyl-1-propanol | 4.14 mmol, 564 μL | C1(=CC=CC=C1)CCCO | C9H12O
reactant | 2-fluoro-5-nitropyridine | 3.45 mmol, 500 mg | FC1=NC=C(C=C1)[N+](=O)[O-] | C5H3FN2O2
reactant | sodium hydride | 4.14 mmol, 99 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-nitro-2-(3-phenylpropoxy)pyridine | 440 mg | [N+](=O)([O-])C=1C=CC(=NC1)OCCCC1=CC=CC=C1 | C14H14N2O3
